US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 61 μL (0.55 mmol) of 4-fluoro-2-methyl-aniline. After purification by chromatography on silica gel (dichloromethane/methanol 95/5) then trituration in diethyl ether, 19 mg (9%) of 8-(4-fluoro-2-methyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-fluoro-2-methyl-aniline | 0.55 mmol, 61 μL | FC1=CC(=C(N)C=C1)C | C7H8FN
product | 8-(4-fluoro-2-methyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 19 mg, 9% | FC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C18H14FN3O3S.C3H6O2/c1-10-8-11(19)2-4-15(10)22-26(24,25)12-3-5-16-14(9-12)13-6-7-20-17(13)18(23)21-16;1-2-3(4)5/h2-9,20,22H,1H3,(H,21,23);2H2,1H3,(H,4,5)/p-1
